US09315458B2
A) [4-(1-methyl-1H-1,2,3-triazol-4-yl)phenyl]methanol
A mixture of [4-(hydroxymethyl)phenyl]boronic acid (7.10 g), 4-bromo-1-methyl-1H-1,2-3-triazole (5.00 g), sodium carbonate (6.59 g) and tetrakis(triphenylphosphine)palladium(0) (3.59 g) in a mixed solvent of water (30.0 mL)-1,4-dioxane (100 mL) was heated with reflux for 16 hr under nitrogen atmosphere. The reaction mixture was allowed to be cooled to room temperature, the organic layer was concentrated under reduced pressure, and the residue was extracted with dichloromethane (×3). The combined extracts were dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (3.40 g).

reactant | [4-(hydroxymethyl)phenyl]boronic acid | 7.10 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-bromo-1-methyl-1H-1,2-3-triazole | 5.00 g | BrC=1N=NN(C1)C | C3H4BrN3
reactant | sodium carbonate | 6.59 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 30.0 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.59 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | [4-(1-methyl-1H-1,2,3-triazol-4-yl)phenyl]methanol | 3.40 g | CN1N=NC(=C1)C1=CC=C(C=C1)CO | C10H11N3O
